US06603005B2
A mixture of 0.55 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]-piperidine-4-carboxylate in 8 cm3 of aqueous 6 N hydrochloric acid was heated at a temperature in the region of 100° C., with stirring and under an inert atmosphere, for 5 hours. After stirring for 18 hours at a temperature in the region of 20° C., the solution obtained was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The evaporation residue obtained was taken up in 10 cm3 of a mixture of dichloromethane/methanol (90/10 by volume) and then concentrated under the same conditions as above. 0.59 g of 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-4-carboxylic acid dihydrochloride was obtained in the form of a foam melting at 129° C. with softening.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]-piperidine-4-carboxylate | 0.55 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC1CCCC1)C(=O)OCC)OC | C28H39ClN2O3S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dichloromethane methanol | ClCCl.CO
product | 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-4-carboxylic acid dihydrochloride | 0.59 g | Cl.Cl.ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCSC1CCCC1)C(=O)O)OC | InChI=1S/C26H35ClN2O3S.2ClH/c1-32-19-8-9-24-22(17-19)21(23(27)18-28-24)7-4-10-26(25(30)31)11-13-29(14-12-26)15-16-33-20-5-2-3-6-20;;/h8-9,17-18,20H,2-7,10-16H2,1H3,(H,30,31);2*1H
